US04409225
Following the procedures outlined in Example (2), the isomer mixture of (±) 4-acetamido-5-chloro-2-methoxy-N-(1'-quinolizidinyl-methyl)-benzamide (4.0 g) was converted to the crude product. Chromatography on Brockman II basic alumina (200 g), using methylene chloride as eluant, afforded one of the isomers (A, 0.9 g, 15%) of (±) 4-amino-5-chloro-2-methoxy-N-(1'-quinolizidinyl-methyl)-benzamide mp 155°-6°.

reactant | (±) 4-acetamido-5-chloro-2-methoxy-N-(1'-quinolizidinyl-methyl)-benzamide | 4.0 g | C(C)(=O)NC1=CC(=C(C(=O)NCC2CCCN3CCCCC23)C=C1Cl)OC | C20H28ClN3O3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (±) 4-amino-5-chloro-2-methoxy-N-(1'-quinolizidinyl-methyl)-benzamide | NC1=CC(=C(C(=O)NCC2CCCN3CCCCC23)C=C1Cl)OC | C18H26ClN3O2
